US06605617B2
Ethyl 2-benzimidazol-2-ylacetate
A solution of 1,2-phenylenediamine (1.0 eq) and ethyl 3-ethoxy-3-iminopropanoate hydrochloride (1.3 eq) in ethanol was stirred at 90° C. overnight. The reaction was cooled to room temperature and the solvent was removed in vacuo. Water and CH2Cl2 were added to the residue. The organic layer was separated, dried over Na2SO4 and the solvent removed. The solid recovered was used without purification. LC/MS m/z 205.2 (MH+), Rf 1.44 minutes.

reactant | 1,2-phenylenediamine | 1.0 eq | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ethyl 3-ethoxy-3-iminopropanoate hydrochloride | 1.3 eq | Cl.C(C)OC(CC(=O)OCC)=N
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-benzimidazol-2-ylacetate | N1=C(NC2=C1C=CC=C2)CC(=O)OCC | C11H12N2O2
